US06852731B2
N-(4-fluorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
To a slurry of 3.3 g (9.2 mmol) N-(4-fluorobenzyl)-2-(hydroxymethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide in 200 mL anhydrous DMF at 0° C., was added 3.0 mL (22.7 mmol) 2,4,6-collidine and 0.75 g (6.14 mmol) 4-(dimethylamino) pyridine. To this mixture, 1.8 mL (23.3 mmol) of methanesulfonyl chloride was added in two portions of 0.9 mL. The mixture was allowed to slowly warm to room temperature with stirring over night. After 19 hours, the homogeneous dark brown mixture was poured into 1.0 L of water. The resulting slurry was stirred for 2 hours at room temperature. The solids were then collected by vacuum filtration, washed with additional water, and dried in a vacuum oven at 60° C. over a weekend. This provided 2.91 g of the title compound as a tan solid.

reactant | N-(4-fluorobenzyl)-2-(hydroxymethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 9.2 mmol, 3.3 g | FC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CO)C)=O)C=C1 | C18H17FN2O3S
reactant | 2,4,6-collidine | 22.7 mmol, 3.0 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | methanesulfonyl chloride | 23.3 mmol, 1.8 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 1.0 L | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
catalyst | 4-(dimethylamino) pyridine | 6.14 mmol, 0.75 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(4-fluorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | FC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CCl)C)=O)C=C1 | C18H16ClFN2O2S
